US04956470
A solution of 160 mg of 1-[[p-(dimethylamino)benzylidene]amino]-2-(p-methoxyphenyl)imidazole and 400 mg of 1-bromo-3,3-dimethyl-2-butanone in 3 ml of acetonitrile is stirred at 60° for 20 hours. The product is removed by filtration and washed with ether. There is obtained 1-[[p-(dimethylamino)benzylidene]amino]-2-(p-methoxyphenyl)-3-(pivaloylmethyl)imidazolium bromide of melting point 262°.

reactant | 1-[[p-(dimethylamino)benzylidene]amino]-2-(p-methoxyphenyl)imidazole | 160 mg | CN(C1=CC=C(C=NN2C(=NC=C2)C2=CC=C(C=C2)OC)C=C1)C | C19H20N4O
reactant | 1-bromo-3,3-dimethyl-2-butanone | 400 mg | BrCC(C(C)(C)C)=O | C6H11BrO
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 1-[[p-(dimethylamino)benzylidene]amino]-2-(p-methoxyphenyl)-3-(pivaloylmethyl)imidazolium bromide | [Br-].CN(C1=CC=C(C=N[N+]2=C(N(C=C2)CC(C(C)(C)C)=O)C2=CC=C(C=C2)OC)C=C1)C | InChI=1S/C25H31N4O2.BrH/c1-25(2,3)23(30)18-28-15-16-29(24(28)20-9-13-22(31-6)14-10-20)26-17-19-7-11-21(12-8-19)27(4)5;/h7-17H,18H2,1-6H3;1H/q+1;/p-1
